US03996229
7 G. of 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin are heated under reflux for 20 hours with 7.8 g. of N-(2-propynyl)-piperazine and 40 ml. of chloroform. The chloroform is removed by evaporation and the residue is treated with ether and aqueous sodium hydroxide solution and mixed well. The ether phase is acidified with ethanolic hydrochloric acid. The precipitate which forms is removed by filtration, made alkaline with aqueous sodium hydroxide solution and taken up in benzene. The benzene phase is dried over sodium sulfate, evaporated, and there is obtained 1-[8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin-10-yl]-4-(2-propynyl)-piperazine which is converted into the dihydrochloride by reaction with ethanolic hydrogen chloride. The dihydrochloride melts at 230°-231° C.

reactant | 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)C | C15H12ClFS
reactant | N-(2-propynyl)-piperazine | C(C#C)N1CCNCC1 | C7H12N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]-thiepin-10-yl]-4-(2-propynyl)-piperazine | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)N3CCN(CC3)CC#C)C1 | C22H23FN2S
